US07192943B2
A mixture of 3-{[1-methyl-5-(tritylamino)pyrazol-4-yl]amino}-3-oxopropanoic acid (600 mg), di-tert-butyl (2-amino-1,3-propanediyl)biscarbamate (434 mg) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (522 mg) in tetrahydrofuran (12 ml) and methylene chloride (6 ml) was stirred overnight at room temperature. Water was added and the whole mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave a residue, which was triturated with diisopropyl ether-ethyl acetate (2:1) to give di-tert-butyl {2-[(3-{[1-methyl-5-(tritylamino)pyrazol-4-yl]amino}-3-oxopropanoyl)amino]-1,3-propanediyl}biscarbamate (699 mg) as a white solid.

reactant | 3-{[1-methyl-5-(tritylamino)pyrazol-4-yl]amino}-3-oxopropanoic acid | 600 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)O)=O | C26H24N4O3
reactant | di-tert-butyl (2-amino-1,3-propanediyl)biscarbamate | 434 mg | NC(CNC(OC(C)(C)C)=O)CNC(OC(C)(C)C)=O | C13H27N3O4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 522 mg | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | di-tert-butyl {2-[(3-{[1-methyl-5-(tritylamino)pyrazol-4-yl]amino}-3-oxopropanoyl)amino]-1,3-propanediyl}biscarbamate | 699 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)NC(CNC(OC(C)(C)C)=O)CNC(OC(C)(C)C)=O)=O | C39H49N7O6
